US09120752B2
To the crude (S)-methyl 4-(1,2-dihydroxyethyl)-6-(4-(4-fluorophenoxy)phenyl)picolinate (assume 0.884 mmol) in 5 mL of a 5:1 mixture of THF and water was added LiOH.H2O (0.084 g, 2.00 mmol). The reaction was stirred overnight then evaporated in vacuo. The residue was dissolved in 5 mL water, filtered and acidified with 2.00 mL 1N HCl. The mixture was evaporated in vacuo to give the product (S)-4-(1,2-dihydroxyethyl)-6-(4-(4-fluorophenoxy)phenyl)picolinic acid mixed with lithium chloride (LC/MS: m/z=370.2 [M+H]+).

reactant | (S)-methyl 4-(1,2-dihydroxyethyl)-6-(4-(4-fluorophenoxy)phenyl)picolinate | 0.884 mmol | O[C@H](CO)C1=CC(=NC(=C1)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C(=O)OC | C21H18FNO5
reactant | THF | C1CCOC1 | C4H8O
reactant | LiOH.H2O | 2.00 mmol, 0.084 g | O[Li].O
solvent | water | O | H2O
product | (S)-4-(1,2-dihydroxyethyl)-6-(4-(4-fluorophenoxy)phenyl)picolinic acid | O[C@H](CO)C1=CC(=NC(=C1)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C(=O)O | C20H16FNO5
